US08420653B2
Synthesis of 4-[4-(methoxyaminocarbonyl)piperidin-1-yl}-5-(4-fluoro phenyl)-6-[4-(methylsulfonyl)phenyl]-2-(trifluoromethyl)pyrimidine
A solution of 1-{5-(4-fluorophenyl)-6-[4-(methylsulfonyl)phenyl]-2-(trifluoromethyl)pyrimidin-4-yl}piperidine-4-carboxylic acid (0.15 g, 0.30 mmol) in dichloromethane (5 ml) was treated with o-methyl hydroxylamine hydrochloride (0.028 g, 0.30 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.127 g, 0.663 mmol), 1-hydroxybenzotriazole (0.008 g, 0.066 mmol) and diisopropylethylamine (0.042 g, 0.33 mmol). After 2 hours of stirring the reaction mixture was poured onto ice-cold water, extracted with dichloromethane and washed with brine. Evaporation of the organic layer furnished the required compound. 1H-NMR (DMSO-d6) δ: 1.46 (m, 4H), 2.14 (m, 1H), 2.73-2.78 (m, 2H), 3.18 (s, 3H), 3.53 (s, 3H), 3.81-3.84 (m, 2H), 7.24 (d, 2H), 7.31-7.36 (m, 5H), 7.75 (d, 2H), 11.01 (br.s, 1H, D2O exchangeable); MS m/z: 535.1 (M++1).

reactant | 1-{5-(4-fluorophenyl)-6-[4-(methylsulfonyl)phenyl]-2-(trifluoromethyl)pyrimidin-4-yl}piperidine-4-carboxylic acid | 0.30 mmol, 0.15 g | FC1=CC=C(C=C1)C=1C(=NC(=NC1C1=CC=C(C=C1)S(=O)(=O)C)C(F)(F)F)N1CCC(CC1)C(=O)O | C24H21F4N3O4S
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.663 mmol, 0.127 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.066 mmol, 0.008 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | diisopropylethylamine | 0.33 mmol, 0.042 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-[4-(methoxyaminocarbonyl)piperidin-1-yl}-5-(4-fluoro phenyl)-6-[4-(methylsulfonyl)phenyl]-2-(trifluoromethyl)pyrimidine | CONC(=O)C1CCN(CC1)C1=NC(=NC(=C1C1=CC=C(C=C1)F)C1=CC=C(C=C1)S(=O)(=O)C)C(F)(F)F | C25H24F4N4O4S
